US08383616B2
Step ix: 4-acetylamino-5-(5-chloro-2,4-dihydroxy-phenyl)-isoxazole-3-carboxylic acid ethylamide
A solution of 4-acetylamino-5-(2,4-bis-benzyloxy-5-chloro-phenyl)-isoxazole-3-carboxylic acid ethylamide (0.35 mmol) in DCM (10 ml) under inert atmosphere was cooled at 0° C. and BCl3 in DCM (1M, 1.05 mmol, 1.05 ml) was added dropwise. The reaction was stirred at 0° C. for 20 min, the cooling bath was then removed and the mixture stirred for a further 50 min. The mixture was cooled back and then quenched by cautious addition of saturated aqueous NaHCO3 solution (20 ml). The DCM was removed under vacuo and water (20 ml) was added. The mixture was then extracted with EtOAc (200 ml). The phases were separated and the organic phase was washed with water (2×30 ml), sat. aqueous NaCl solution (50 ml) and then dried and filtered. Solvent was removed under vacuo and the crude product purified by flash chromatography on silica gel.

reactant | 4-acetylamino-5-(2,4-bis-benzyloxy-5-chloro-phenyl)-isoxazole-3-carboxylic acid ethylamide | 0.35 mmol | C(C)NC(=O)C1=NOC(=C1NC(C)=O)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C28H26ClN3O5
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.05 mmol, 1M, 1.05 ml | C(Cl)Cl | CH2Cl2
product | 4-acetylamino-5-(5-chloro-2,4-dihydroxy-phenyl)-isoxazole-3-carboxylic acid ethylamide | C(C)NC(=O)C1=NOC(=C1NC(C)=O)C1=C(C=C(C(=C1)Cl)O)O | C14H14ClN3O5
